US07592360B2
preparation of 4-methylbenzyl 4-oxopiperidine-1-carboxylate
4-Methylbenzyl alcohol (37.6 g, 308 mmol) was added to a solution of 1,1′-carbonyldiimidazole (50.0 g, 308 mmol) in DMF at RT and stirred for 1 h. 4-Piperidone hydrate hydrochloride (commercially available from Sigma-Aldrich, 47.0 g, 308 mmol) was added, resulting in a reaction mixture that was then heated to 50° C. and stirred for 15 h. The reaction mixture was diluted with EtOAc and washed with 0.1 M HCl, H2O (four times), and brine, dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (step gradient elution: 10%, 25%, 50% EtOAc in hexanes) produced the title compound (42.4 g, 85% yield) as a clear oil.

reactant | 4-Methylbenzyl alcohol | 308 mmol, 37.6 g | CC1=CC=C(CO)C=C1 | C8H10O
reactant | 1,1′-carbonyldiimidazole | 308 mmol, 50.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-Piperidone hydrate hydrochloride | Cl.O.N1CCC(CC1)=O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-methylbenzyl 4-oxopiperidine-1-carboxylate | 42.4 g, 85% yield | O=C1CCN(CC1)C(=O)OCC1=CC=C(C=C1)C | C14H17NO3
